US05981557
2-(N-Methylamino)-4-[(2-dimethylaminoethyl)aminocarbonyl]-1,3-thiazole
In 3.5 g of N,N-dimethylethylenediamine, 2.5 g of 2-(N-methylamino)-4-(ethoxycarbonyl)-1,3-thiazole was dissolved, followed by stirring at 100° C. for 6 hours. The reaction mixture was poured into isopropyl alcohol and the crystals so precipitated were collected by filtration, whereby 1.68 g of the title compound was obtained. Yield: 51.5%.

reactant | 2-(N-methylamino)-4-(ethoxycarbonyl)-1,3-thiazole | 2.5 g | CNC=1SC=C(N1)C(=O)OCC | C7H10N2O2S
reactant | isopropyl alcohol | C(C)(C)O | C3H8O
reactant | N,N-dimethylethylenediamine | 3.5 g | CN(CCN)C | C4H12N2
product | 2-(N-Methylamino)-4-[(2-dimethylaminoethyl)aminocarbonyl]-1,3-thiazole | 1.68 g, Yield: 51.5% | CNC=1SC=C(N1)C(=O)NCCN(C)C | C9H16N4OS
